US06897306B2
2-[[(5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetic Acid
A solution of methyl 2-[[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetate (Preparation 40) (180 mg, 0.44 mmol) in 1,4-dioxane (4 ml) was cooled to 0° C. and treated with lithium hydroxide monohydrate (42 mg, 1 mmol). The mixture was stirred for 1 hour being allowed to warm to room temperature over this time. The mixture was then treated with hydrochloric acid (2M), diluted with water and extracted with ethyl acetate (×2). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by HPLCb to afford the title compound as a white foam (95 mg).

reactant | methyl 2-[[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetate | 0.44 mmol, 180 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N(CC(=O)OC)C | C19H30N4O6
reactant | lithium hydroxide monohydrate | 1 mmol, 42 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[[(5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetic Acid | 95 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N(CC(=O)O)C | C18H28N4O6
